* Z:\home\adi\tut\IE_Tut1.asc
V1 N001 0 SINE(0 10 50)
R1 N002 N001 1k
D1 0 N002 BZX84C10L
D2 N002 P001 1N4148
V2 P001 0 5
.model D D
.lib C:\users\adi\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 100ms
.backanno
.end
